US07411072B2
N-{3-[2-(2-Morpholin-4-yl-ethoxy)-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl]-phenyl}-methanesulfonamide
Following procedures essentially as described in Example 219, below, and using 4-[2-(5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-2-yloxy)-ethyl]-morpholine (220 mg, 0.53 mmol) and 3-methanesulfonamidophenylboronic acid (125 mg, 0.58 mmol). Purification on silica gel eluting with EtOAc then EtOAc/1% MeOH/NH3, gave 57 mg of pure E-isomer. MS (ES)505 (M+1), 503(M−1). HPLC shows 92% purity at t=1.79 min.

reactant | 4-[2-(5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-2-yloxy)-ethyl]-morpholine | 0.53 mmol, 220 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)OCCN3CCOCC3)C=CC=C2 | C22H24BrNO2
reactant | 3-methanesulfonamidophenylboronic acid | 0.58 mmol, 125 mg | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | N-{3-[2-(2-Morpholin-4-yl-ethoxy)-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl]-phenyl}-methanesulfonamide | N1(CCOCC1)CCOC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)C)C=C1 | C29H32N2O4S
